US05378712
By esterifying the trifluoroacetate of 4-piperidinyloxy-acetic acid (prepared by treating the product of Example 1c) with trifluoroacetic acid in dichloromethane) in methanol in the presence of thionyl chloride there is obtained methyl 4-piperidinyloxyacetate hydrochloride, MS (EI): 173 (M)+.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 4-piperidinyloxy-acetic acid | N1CCC(CC1)OCC(=O)O | C7H13NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | methyl 4-piperidinyloxyacetate hydrochloride | Cl.N1CCC(CC1)OCC(=O)OC | InChI=1S/C8H15NO3.ClH/c1-11-8(10)6-12-7-2-4-9-5-3-7;/h7,9H,2-6H2,1H3;1H
